US08877774B2
Step 2. (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanol
To a solution of (3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanone (4.73 g, 12.35 mmol) in ethanol (100 mL) at 0° C., sodium borohydride (1.88 g, 49.42 mmol) was added portion wise. The coolant was removed, and the reaction mixture was allowed to warm to RT and stirred for 1 hour. The reaction mixture was quenched with water (30 mL) at 0° C. and then concentrated under reduced pressure. The crude material was dissolved in DCM and washed with saturated aqueous ammonium chloride, dried (sodium sulfate), filtered, and concentrated under reduced pressure to afford the title compound (4.33 g, 91%).

reactant | (3-(8-(1,3-dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanone | 12.35 mmol, 4.73 g | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1)C(=O)C1=CC=CC=C1 | C24H30O4
reactant | sodium borohydride | 49.42 mmol, 1.88 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (3-(8-(1,3-Dioxolan-2-yl)octyloxy)phenyl)(phenyl)methanol | 4.33 g, 91% | O1C(OCC1)CCCCCCCCOC=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C24H32O4
